US09278985B2
4-Amino-6-(benzo[b]thiophen-5-yl)-3,5-dichloropicolinic acid (Compound 3.2)
In a 100 mL round bottom flask, methyl 4-amino-6-(benzo[b]thiophen-5-yl)-3,5-dichloropicolinate (210 mg, 0.595 mmol) was dissolved in methanol (2.3 mL), tetrahydrofuran (2.3 mL), and H2O (1.2 mL). Lithium hydroxide hydrate (74.8 mg, 1.784 mmol) was added as a solid. The reaction was stirred at room temperature until complete. The reaction mixture was concentrated to dryness. The resulting residue was dissolved in H2O (2.0 mL) and 1 N HCl was used to adjust the pH to 3.0, causing a precipitate to form. This suspension was extracted with ethyl acetate (3×15 mL). The organic extracts were combined, washed with Saturated NaCl solution, dried (MgSO4), filtered and concentrated. Additional purification of the resulting solid was performed, as needed, using a Teledyne ISCO reverse phase system with a gradient eluent system of acetonitrile and H2O to yield the title compound as a white solid (110 mg, 55.

reactant | methyl 4-amino-6-(benzo[b]thiophen-5-yl)-3,5-dichloropicolinate | 0.595 mmol, 210 mg | NC1=C(C(=NC(=C1Cl)C1=CC2=C(SC=C2)C=C1)C(=O)OC)Cl | C15H10Cl2N2O2S
reactant | tetrahydrofuran | 2.3 mL | O1CCCC1 | C4H8O
reactant | H2O | 1.2 mL | O | H2O
reactant | Lithium hydroxide hydrate | 1.784 mmol, 74.8 mg | O.[OH-].[Li+]
solvent | methanol | 2.3 mL | CO | CH4O
product | 4-Amino-6-(benzo[b]thiophen-5-yl)-3,5-dichloropicolinic acid | NC1=C(C(=NC(=C1Cl)C1=CC2=C(SC=C2)C=C1)C(=O)O)Cl | C14H8Cl2N2O2S
